US07678810B2
20% palladium hydroxide (138 mg) was added to a solution of 3-(2-benzyloxyethyl)oxazolidin-2-one (278 mg) in methanol (10 ml), and the mixture was stirred for 2 hours at room temperature under hydrogen atmosphere. The reaction solution was filtered through celite and then the solvent was evaporated. The residue was purified by silica gel column chromatography (chloroform:methanol=90:10) to yield 3-(2-hydroxyethyl)oxazolidin-2-one (144 mg) as a colorless oil.

reactant | 3-(2-benzyloxyethyl)oxazolidin-2-one | 278 mg | C(C1=CC=CC=C1)OCCN1C(OCC1)=O | C12H15NO3
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium hydroxide | 138 mg | [OH-].[Pd+2].[OH-]
product | 3-(2-hydroxyethyl)oxazolidin-2-one | 144 mg | OCCN1C(OCC1)=O | C5H9NO3
